US06264917B1
iii) Synthesis of 4-[2-hydroxy-3-[(1-methylethyl)amino]propoxy]phenylacetic acid hydrochloride
A solution of methyl 4-[2-hydroxy-3-[(1-methylethyl)amino]propoxy]phenylacetate (563 mg, 2.00 mmol) in 6M hydrochloric acid (15 ml) was heated at 100° C. for 4 hours. The reaction mixture was concentrated (rotavapor) and the residue was taken up in water and lyophilised. 1H and 13C NMR spectra were in accordance with the strucure and MALDI mass spectrometry gave a M+H at 268 as expected.

reactant | methyl 4-[2-hydroxy-3-[(1-methylethyl)amino]propoxy]phenylacetate | 2.00 mmol, 563 mg | OC(COC1=CC=C(C=C1)CC(=O)OC)CNC(C)C | C15H23NO4
reactant | hydrochloric acid | 6M, 15 ml | Cl | ClH
product | 4-[2-hydroxy-3-[(1-methylethyl)amino]propoxy]phenylacetic acid hydrochloride | Cl.OC(COC1=CC=C(C=C1)CC(=O)O)CNC(C)C | InChI=1S/C14H21NO4.ClH/c1-10(2)15-8-12(16)9-19-13-5-3-11(4-6-13)7-14(17)18;/h3-6,10,12,15-16H,7-9H2,1-2H3,(H,17,18);1H
